US04874792
(h) 2Hydroxy-3-(2-carboxyethylthio)-3-[2-(8-(2-furyl)octyl)phenyl]propanoic acid
Methyl 2-hydroxy-3-(2-carbomethoxyethylthio)-3-[2-(8-(2-furyl)octyl)phenyl]propanoate (0.068 g, 0.14 mmoles) was dissolved in methanol (2.0 ml), under argon, cooled to 0° C. and a 1N sodium hydroxide solution (0.54 ml) was added dropwise. The ice bath was removed and the reaction mixture permitted to warm to room temperature. After 5 hours, the methanol was evaporated and the residue diluted with water. The pH of the aqueous layer was adjusted to 2 with dilute hydrochloric acid. The acidic layer was then extracted with ethyl acetate, dried over magnesium sulfate, filtered and evaporated. The residue was flash chromatographed on silica gel to provide the desired product as a mixture of diastereomers, -log KB value 7.7.

reactant | Methyl 2-hydroxy-3-(2-carbomethoxyethylthio)-3-[2-(8-(2-furyl)octyl)phenyl]propanoate | 0.14 mmoles, 0.068 g | OC(C(=O)OC)C(C1=C(C=CC=C1)CCCCCCCCC=1OC=CC1)SCCC(=O)OC | C26H36O6S
reactant | sodium hydroxide | 1N, 0.54 ml | [OH-].[Na+]
solvent | methanol | 2.0 ml | CO | CH4O
product | 2Hydroxy-3-(2-carboxyethylthio)-3-[2-(8-(2-furyl)octyl)phenyl]propanoic acid | OC(C(=O)O)C(C1=C(C=CC=C1)CCCCCCCCC=1OC=CC1)SCCC(=O)O | C24H32O6S
